US07977441B2
1-Ethynyl-2-diethylaminonaphthalene was prepared in a similar manner to 1-ethynyl-2-methylnaphthalene, except that 1-bromo-2-methylnaphthalene was replaced by 1-bromo-2-diethylaminonaphthalene.

reactant | 1-ethynyl-2-methylnaphthalene | C(#C)C1=C(C=CC2=CC=CC=C12)C | C13H10
reactant | 1-bromo-2-methylnaphthalene | BrC1=C(C=CC2=CC=CC=C12)C | C11H9Br
reactant | 1-bromo-2-diethylaminonaphthalene | BrC1=C(C=CC2=CC=CC=C12)N(CC)CC | C14H16BrN
product | 1-Ethynyl-2-diethylaminonaphthalene | C(#C)C1=C(C=CC2=CC=CC=C12)N(CC)CC | C16H17N
